US09328092B2
Step (iii): Preparation of 1-(Morpholin-4-yl)-3-[2-(piperidin-4-yloxy)pyridin-5-yl]-prop-2-ene-1-one
A solution of 3-[2-(1-t-Butyloxycarbonyl piperidin-4-yloxy)pyridin-5-yl]-1-(morpholin-4-yl)prop-2-ene-1-one (0.7 grams, 0.0016 moles) in dichloromethane (20 mL) was treated with trifluoroacetic acid (1.3 mL, 0.016 moles) at room temperature. The reaction mass was stirred for 6 hours at room temperature. The progress of the reaction was monitored by thin layer chromatography. After completion of reaction, the reaction mass was poured on to chilled water (30 mL) and basified with 40% lye solution (pH˜9). The layers were separated and the aqueous layer was further extracted with dichloromethane (2×20 mL). The combined organic phase was washed with water (30 mL), brine solution (30 mL) and dried over sodium sulphate. The organic phase was concentrated on rotavacuum to afford the title compound (0.48 grams).

reactant | 3-[2-(1-t-Butyloxycarbonyl piperidin-4-yloxy)pyridin-5-yl]-1-(morpholin-4-yl)prop-2-ene-1-one | 0.0016 moles, 0.7 grams | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=C1)C=CC(=O)N1CCOCC1 | C22H31N3O5
reactant | trifluoroacetic acid | 0.016 moles, 1.3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 30 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(Morpholin-4-yl)-3-[2-(piperidin-4-yloxy)pyridin-5-yl]-prop-2-ene-1-one | 0.48 grams, Yield: 90% | N1(CCOCC1)C(C=CC=1C=CC(=NC1)OC1CCNCC1)=O | C17H23N3O3
